US04569934
A mixture of 3.0 g of 3-chloro-6-[3-(trifluoromethyl)phenyl]pyridazine and 5.0 g of 1-amino-2-pentanol is heated at 130° C. for 18 hours, cooled, diluted with water and extracted with dichloromethane. As for Example 3, the obtained product is reacted with thionyl chloride and the ring is closed with potassium carbonate in ethanol to give 2,3-dihydro-3-propyl-6-[3-(trifluoromethyl)phenyl]imidazo[1,2-b]pyridazine which is dehydrogenated with lead tetraacetate to give the product of the Example.

reactant | 3-chloro-6-[3-(trifluoromethyl)phenyl]pyridazine | 3.0 g | ClC=1N=NC(=CC1)C1=CC(=CC=C1)C(F)(F)F | C11H6ClF3N2
reactant | 1-amino-2-pentanol | 5.0 g | NCC(CCC)O | C5H13NO
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
solvent | water | O | H2O
solvent | ethanol | C(C)O | C2H6O
product | 2,3-dihydro-3-propyl-6-[3-(trifluoromethyl)phenyl]imidazo[1,2-b]pyridazine | C(CC)C1CN=C2N1N=C(C=C2)C2=CC(=CC=C2)C(F)(F)F | C16H16F3N3
